US07754903B2
The process gives a yield of 61% which is not bad. In this process, however, tin tetra-chloride (which is a Lewis acid) is used as the catalyst. For the safety reason of the catalyst, the solvent usable is limited to low-polarity solvents such as halides. Hence, in production of 1-adamantylglycidyl ether, when the starting raw material is changed from 1-adamantanol to an adamantanepolyol having two or more hydroxyl groups (which has very low solubility in low-polar solvents), the reactivity thereof is not certain. Further, there is a fear that epichlorohydrin itself polymerizes in the presence of an acid such as Lewis acid and the polymerizate remains as an impurity. As a process for obtaining a glycidyl ether from an alcohol, there is generally considered a process which comprises reacting an alcohol with an alkali metal or the like to synthesize an alcoholate and contacting the alcoholate with epichlorohydrin or epibromohydrin. However, there is no case in which this process has been applied to any polycyclic hydroxy compound having two or more hydroxyl groups.

reactant | tin tetra-chloride | [Sn](Cl)(Cl)(Cl)Cl
reactant | 1-adamantylglycidyl ether | C12(CC3CC(CC(C1)C3)C2)OCC2CO2 | C13H20O2
reactant | 1-adamantanol | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
product | glycidyl ether | yield of 61% | C(C1CO1)OCC1CO1 | C6H10O3
